Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with h/o CAD (LAD stent in ___, COPD, HTN presented 
to ___ with sudden onset SS CP (pressure) starting at 
5am, non-radiating, associated with shortness of breath and 
heart racing, no diaphoresis, no nausea/vomiting. She describes 
it as pleuritic and worst when she inhales deeply. Pain is 
similar in nature to AMI she had in ___ at which point she 
had a stent placed. No pain anywhere else. At its worse, pain 
was ___, currently ___.  
.  
She put on some O2 (takes 2L at home for COPD) with some relief 
and went to ___, where she got Aspirin ___ 150mg and 
NTG x3 and transferred to ___ where pain was ___. Pt was also 
given Morphine 2mg, Heparin gtt, and Nitro gtt at ___ as 
well.  
.  
In ___, 97.5, 182/72, 79, 24, 99% on 2L. Labs with Cr 1.2 
(unclear baseline, only other OMR value 1.4), Hct 31.2 (baseline 
32's?), cardiac enzymes negative x1. EKG showing: NSR 79 bpm, 
normal axis and intervals, inferior Q waves, downward scooping 
V5-6 but not outright ST depression and no ST elevation. CXR 
showing chronic lingular collapse seen previously, interval 
development of non-specific  
bibasilar patchy opacification, could be atelectasis, aspiration 
or pneumonia.  
.  
Continued on Hep gtt, Nitro gtt, got Morphine 4mg and admit to 
___. Vitals on transfer 98.1 138/69, 85, 14, 98%RA. Currently 
pt still c/o ___ chest pain and we have increased nitro gtt 
since admission, currently running 1.14mcg/kg/min. Hep gtt 
running at 500u/hr.  
.  
Of note, pt relates history of 5d admission to ___ for 
similar symptoms last month ___ but family states no etiology 
was found.  
.  
ROS as above, also with chronic unchanged cough due to COPD, 
recently with runny nose, diarrhea last week but none now. She 
denies palpitations, PND, but does endorse 2 pillow orthopnea. 
She endorses stable DOE when she walks up and down the stairs at 
home doing laundry.  
ROS negative for f/c/ns, vision changes, n/v/d/c, no URI sxs 
other than runny nose, no SOB other than DOE as above, no 
dysuria, no skin/joint changes. She denies this pain could be 
heart burn.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: Dyslipidemia, Hypertension. No known 
diabetes.  
2. CARDIAC HISTORY: Grade I diastolic dysfunction on ___ ECHO  

-CABG: NONE  
-PERCUTANEOUS CORONARY INTERVENTIONS: ___, s/p endeavor stent 
to LAD 70-80% stenosis.  
-PACING/ICD: NONE  
3. OTHER PAST MEDICAL HISTORY:  
COPD, quit smoking ___ years ago --> Emphysema with an FEV1 of 
0.81.  
Hypertension  
Hypothyroidism  
Hyperlipidemia  
Chronic left lung/lingular infiltrate  
Chronic urinary incontinence  

 
Social History:
___
Family History:
M- breast ca, adult onset DM  
F- aneurysm  

 
Physical Exam:
96.3 130/53, 106/64 73 20 96%2L  
Elderly lady sitting in bed, able to relate history. No 
accessory muscle use, no respiratory distress but slightly 
dyspneic and audibly wheezy. Breaks into wet sounding coughing 
fits for 30 secs at a time and gets very red in the face  
EOMI. Mouth normal appearing, wearing dentures.  
Carotid pulses palpable. Jugular veins not noticeably distended. 
No carotid bruits noted.  
Lungs with diffuse adventitious sounds in all fields. Bilateral 
apices with harsh expiratory wheezes. On the R mid lung to base 
there are rough crackles, greater than on the L. Air movement is 
poor. The pain is made worse when pressing on her left rib cage. 
 
Spine kyphotic.  
At upper sternal border S1 S2 are very faint even when pt asked 
to hold breath. They are more appreciable at the apex, regular, 
no murmurs appreciable. Palpable radials, DP's not palpable.  
Abd soft NT ND.  
No c/c/e of digits. Good capillary refill.  
No BLE edema.  

 
Pertinent Results:
ADMISSION LABS:
.
___ 11:40AM BLOOD WBC-5.9 RBC-3.52* Hgb-10.7* Hct-31.2* 
MCV-89 MCH-30.5 MCHC-34.4 RDW-13.8 Plt ___
___ 05:45AM BLOOD WBC-6.8 RBC-3.53* Hgb-10.4* Hct-31.6* 
MCV-90 MCH-29.4 MCHC-32.8 RDW-13.9 Plt ___
___ 11:40AM BLOOD Neuts-60.6 ___ Monos-7.1 Eos-7.6* 
Baso-0.2
___ 11:40AM BLOOD ___ PTT-99.3* ___
___ 11:40AM BLOOD Glucose-100 UreaN-21* Creat-1.2* Na-143 
K-3.5 Cl-109* HCO3-24 AnGap-14
___ 05:45AM BLOOD Calcium-8.9 Phos-3.7 Mg-1.9
.
CARDIAC ENZYMES:
.
___ 11:40AM BLOOD CK-MB-NotDone
___ 11:40AM BLOOD cTropnT-<0.01
___ 11:40AM BLOOD CK(CPK)-41
___ 09:15PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 09:15PM BLOOD CK(CPK)-34
.
___ EKG
 
Sinus rhythm. Possible prior inferior myocardial infarction, age 
undetermined. 
Compared to the previous tracing of ___ no diagnostic 
interim change. 
TRACING #1 
  
 
Read by: ___. 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
79 152 74 410/443 81 -6 40 
 

___ CXR
 
FINDINGS: There is persistent collapse of the lingula. There has 
been 
interval development of bibasilar patchy opacification and 
increased left 
retrocardiac opacification, nonspecific, could relate to 
aspiration pneumonia 
or atelectasis. No other areas of focal parenchymal 
consolidation.  
Cardiomediastinal contours are stable demonstrating tortuosity 
of the aorta 
with atherosclerotic calcification. No evidence of pleural 
effusions or 
pneumothorax. 
  
IMPRESSION: Chronic lingular collapse. Interval development of 
non-specific 
bibasilar patchy opacification which could be related to 
atelectasis, 
aspiration or pneumonia.  

___ CXR pa/lateral
 
FINDINGS: In comparison with the earlier study of this date, 
there is some 
decreased opacification in the bibasilar areas. This could 
reflect clearing 
of aspiration or somewhat atypical pulmonary edema. 

___ EKG
 
Sinus rhythm. Inferior myocardial infarction, age undetermined. 
Compared 
to tracing #1 no change. 
TRACING #2 
  
 
Read by: ___. 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
83 154 72 378/418 73 -4 44 
 

___ stress test
 
EKG:  SINUS, PRWP, NSSTTW   
HEART RATE:  78 BLOOD PRESSURE:  140/60 
  
PROTOCOL  /  
STAGE TIME SPEED ELEVATION WATTS HEART BLOOD RPP 
  (MIN) (MPH) (%)   RATE PRESSURE   
1 ___ 0.5 0   83 144/80 ___ 
2 ___ 0.5 2   84 144/76 ___ 0.7 2  84 154/74 ___ 
  
TOTAL EXERCISE TIME:  8 % MAX HRT RATE ACHIEVED:  60 
 
SYMPTOMS: NONE   
ST DEPRESSION: NONE 
 
  
INTERPRETATION: This ___ year old woman s/p PCI LAD ___ and a 

history of COPD was referred to the lab for evaluation shortness 
of 
breath. The patient exercised for 8 minutes of a RAMP protocol 
and 
stopped for shortness of breath and fatigue. The estimated peak 
MET 
capacity was 2 which represents a limited physical working 
capacity for 
her age. No arm, neck, back, or chest discomfort was reported by 
the 
patient throughout the study. There were no significant ST 
segment 
changes during exercise or in recovery. The rhythm was sinus 
with no 
ectopy. Blunted HR and BP response to exercise on beta blocker 
therapy. 
IMPRESSION: Limited functional capacity. No anginal type 
symptoms or 
ischemic EKG changes. Nuclear report sent separately. 
 
___ MIBI
 
RADIOPHARMACEUTICAL DATA: 
10.3 mCi Tc-99m Sestamibi Rest ___ 
28.7 mCi Tc-99m Sestamibi Stress ___ 
HISTORY: ___ y/o female with h/o PCI to LAD ___, COPD 
presenting for 
evaluation of shortness of breath. 
  
SUMMARY OF DATA FROM THE EXERCISE LAB: 
  
Exercise protocol: RAMP 
Resting heart rate: 78 
Resting blood pressure: 140/60 
Exercise Duration: 8 min 
Peak heart rate: 84 
Percent maximum predicted heart rate obtained: 60 %  
Peak blood pressure: 154/74 
Symptoms during exercise: None 
Reason exercise terminated: Fatigue and shortness of breath 
ECG findings: No ischemic ST changes 
  
METHOD: 
  
Resting perfusion images were obtained with Tc-99m sestamibi. 
Tracer was 
injected approximately 45 minutes prior to obtaining the resting 
images. 
  
At peak exercise, approximately three times the resting dose of 
Tc-99m sestamibi 
was administered IV. Stress images were obtained approximately 
15 minutes 
following tracer injection. 
  
Imaging Protocol: Gated SPECT 
  
This study was interpreted using the 17-segment myocardial 
perfusion model. 
  
INTERPRETATION: 
  
The image quality is adequate. 
  
Left ventricular cavity size is normal. 
  
Resting and stress perfusion images reveal uniform tracer uptake 
throughout the 
left ventricular myocardium. 
  
Gated images reveal normal wall motion. 
  
The calculated left ventricular ejection fraction is 64 %. 
  
There are no prior studies. 
 
IMPRESSION: 1. Normal myocardial perfusion at the level of 
exercise achieved. 
2. Normal left ventricular cavity size. 3. LVEF 64%. 

 
Brief Hospital Course:
___ with h/o cardiac risk factors of HTN, HL, former smoker, 
and known CAD s/p DES to mid LAD in ___, also with Grade I 
(mild) LV diastolic dysfunction, COPD, hypothyroidism presents 
with substernal chest pain.  
 
1. Chest pain: Chest pain was thought to be UA vs non cardiac 
cause (pleurisy from viral infection, pneumonia, COPD 
exacerbation/bronchitis, or chostochondritis from excessive 
coughing as pt was noted to have particularly impressive 
coughing fits, and chest pain was elicited from pressing her 
chest). 

Pt was started on Nitro and Hep gtt, given ___, statin. 
Lisinopril and Metoprolol initially held but restarted by 
discharge. Pt ruled out MI with two negative enzymes and 
reassuring EKG. Pt was given nebulizer treatments scheduled, 
however no systemic steroids or ABx, and continued home 
Fluticasone. Pt had exercise mibi (report above) which was 
significant for very poor exercise tolerance ___ METS) however 
was reassuring by EKG and nuclear imaging. Pt had no further 
episodes of chest pain through her admission. 

2. Lingula opacity: Needs to be followed up. It appears from 
last Pulm notes that she was not very compliant and may have 
been lost to follow up. Seen on CT chest ___ and appeared to 
be more benign in appearance than malignant. The pt was offered 
an appt with Pulmonology however stated she wanted her PCP to 
set one up closer to home. 

3. Chronic renal failure: Cr 1.2 on admission with unclear 
baseline, only other OMR value was 1.4 previously. Cr rose 
through admission to 1.6 however came back down to 1.4 by 
discharge. Will need to be followed up but likely baseline is 
1.2-1.4.

 
Medications on Admission:
This is a combination of two different med lists, mostly the 
same, but pt able to verify many but not all of the meds.  
1. Advair Diskus 250/50 1 puff inhaled bid  
2. Aspirin 81mg or 325mg?  
3. Detrol LA 2mg twice a day  
4. HCTZ 12.5mg daily  
5. Levothyroxine 25mcg daily  
6. Metoprolol succinate 50mg daily  
7. SL NTG as needed for CP  
8. ___ 75mg daily  
9. Simvastatin 40mg daily  
10. Vitamin D 400u daily  
11. Xopenex 0.31mg neb inhaled every four hours  
12. Oxybutynin Chloride 10mg daily  
13. Ranitidine 150mg twice daily  
14. ISMN SR 30 mg daily  
15. Lisinopril 5mg daily  
.  

 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
3. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Tolterodine 1 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
5. Hydrochlorothiazide 12.5 mg Tablet Sig: One (1) Tablet PO 
once a day.  
6. Levothyroxine 25 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  
8. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1)  
Sublingual as needed as needed for cold symptoms: Take one 
tablet as needed for chest pain every 5 minutes up to total of 3 
doses.  
10. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
11. Xopenex 0.31 mg/3 mL Solution for Nebulization Sig: One (1) 
neb Inhalation every four (4) hours as needed for shortness of 
breath or wheezing.  
12. Oxybutynin Chloride 10 mg Tab,Sust Rel Osmotic Push 24hr 
Sig: One (1) Tab,Sust Rel Osmotic Push 24hr PO once a day.  
13. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
14. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
15. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Chest pain of uncertain etiology, cardiac vs pulmonary, with 
negative cardiac enzymes and reassuring stress test
.
Secondary diagnoses:
COPD, quit smoking ___ years ago --> Emphysema with an FEV1 of 
0.81.
Grade I diastolic dysfunction on ___ ECHO
___, s/p endeavor stent to LAD 70-80% stenosis. 
Hypertension
Hypothyroidism
Hyperlipidemia
Chronic left lung/lingular infiltrate
Chronic urinary incontinence
 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - requires assistance or aid (walker 
or cane)
 
Discharge Instructions:
You were admitted to ___ out of concern for pain in your 
chest. We monitored your blood work and EKG's and determined 
that you were not having a heart attack. You also had a stress 
test which was reassuring. The pain in your chest may be due to 
your lungs and your persistent cough. 

The following changes were made to your medication regimen:
1. INCREASE your Aspirin from 81 mg daily to 325 mg daily

Other than this change, no other changes were made to your 
medication regimen and you should take your medicines as you 
were before your admission. As always, discuss with your primary 
care doctor which medicines you should be on at all visits.  

 
Followup Instructions:
___